US07619086B2
Step 4: 2-(4-Fluorobenzyl)-8-hydroxy-5,5,6-trimethyl-2,3,4,4a,5,6-hexahydro-2,6-naphthyridine-1,7-dione
To a cooled (0° C.) solution of ethyl ({1-[1-(4-fluorobenzyl)-2-oxopiperidin-4-yl]-1-methyethyl}amino)(oxo)acetate (1.2 g, 3.3 mmol) in anhydrous DMF (10 mL) under an atmosphere of nitrogen was added LiHMDS (1M in THF, 3.5 mL, 3.5 mmol). After stirring at 0° C. for 15 min, methyl iodide (0.47 g, 3.3 mmol) was added to the reaction mixture. After stirring for an additional 15 min, more LiHMDS (1M in THF, 3.5 mmol, 3.5 mmol) was added. After another 2 h, an additional portion of LiHMDS (1M in THF, 3.5 mL, 3.5 mmol) was added. After stirring at room temperature for 24 hours, the reaction mixture was concentrated under vacuum. The residual material was purified using reverse phase HPLC on a C18 stationary phase eluting with a gradient of 5%-95% acetonitrile (0.1% TFA) in H2O (0.1% TFA) to afford the title compound as an oil 1H NMR (400 MHz, CDCl3) δ 7.27 (m, 2H), 7.04 (t, J=8.6 Hz, 2H), 4.67 (d, J=14.7 Hz, 1H), 4.52 (d, J=14.7 Hz, 1H), 3.33 (d, J=6 Hz, 2H), 3.31 (s, 3H), 2.84 (m, 1H), 1.93 (m, 1H), 1.64 (m, 1H), 1.37 (s, 3H), 1.13 (s, 3H) ppm. ES MS M+1=333.

reactant | ethyl ({1-[1-(4-fluorobenzyl)-2-oxopiperidin-4-yl]-1-methyethyl}amino)(oxo)acetate | 3.3 mmol, 1.2 g | FC1=CC=C(CN2C(CC(CC2)C(C)(C)NC(C(=O)OCC)=O)=O)C=C1 | C19H25FN2O4
reactant | LiHMDS | 3.5 mmol, 1M, 3.5 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | methyl iodide | 3.3 mmol, 0.47 g | CI | CH3I
reactant | LiHMDS | 3.5 mmol, 1M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | LiHMDS | 3.5 mmol, 1M, 3.5 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(4-Fluorobenzyl)-8-hydroxy-5,5,6-trimethyl-2,3,4,4a,5,6-hexahydro-2,6-naphthyridine-1,7-dione | FC1=CC=C(CN2C(C3=C(C(N(C(C3CC2)(C)C)C)=O)O)=O)C=C1 | C18H21FN2O3
